US07091232B2
4-Bromo-indan-1-one was obtained by the following procedure: A solution of 3-(2-bromo-phenyl)-propionic acid (commercially available from Oakwood Products) (15.0 g, 65.5 mmol) in CH2Cl2 at 0° C. was reacted with oxalyl chloride (7.2 mL, 1.5 eq) followed by 2–3 drops of DMF. The mixture was stirred until no more gas evolution was observed. As the mixture was concentrated and the residue was dissolved in CH2Cl2, cooled to 0° C., and treated with AlCl3 (9.6 g, 1.1 eq). After 1 h the mixture was quenched with water and the layers were separated. The aqueous layer was extracted with Et2O (3×150 mL) and the combined organic extracts were washed with H2O (3×100 mL), saturated NaHCO3 (3×100 mL), brine (1×100 mL), dried over MgSO4 and concentrated. 4-Bromoindan-1-one, 10.5 g (76%) was obtained by chromatography using 10% EtOAc:hexane as eluant. Use of 4-bromo-indan-1-one in Method NINETEEN produced 4-(4-bromo-indan-2-yl)-1,3-dihydro-imidazole-2-thione (Compound 149).

reactant | 3-(2-bromo-phenyl)-propionic acid | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
reactant | oxalyl chloride | 7.2 mL, 1.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 9.6 g, 1.1 eq | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2–3 drops | CN(C)C=O | C3H7NO
product | 4-Bromoindan-1-one | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
